US08486979B2
5-(2,3,4-trifluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 2,3,4-trifluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.37-7.48 (m, J=9.3, 9.3, 7.1, 2.4 Hz, 1 H), 7.64 (ddd, J=7.9, 5.0, 1.0 Hz, 1 H), 8.08-8.18 (m, 1 H), 8.56 (dt, J=8.0, 1.9 Hz, 1 H), 8.75 (dd, J=5.0, 1.8 Hz, 1 H), 9.30 (dd, J=2.0, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 278 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 2,3,4-trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | NH3 | N | H3N
product | 5-(2,3,4-trifluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | FC1=C(C=CC(=C1F)F)C1=NC(=NO1)C=1C=NC=CC1 | C13H6F3N3O
